US05034417
A mixture of 4'-amino-3'-chloro-5'-(2,4-difluorophenylthio)acetophenone (1 g) and methanesulfonic anhydride (1.2 g) in pyridine (5 ml) was stirred at room temperature for 2 days. The mixture was concentrated. The residue was dissolved in chloroform, washed with dilute hydrochloric acid, dried and evaporated. The residue was dissolved in methanol (30 ml) and treated with potassium hydroxide (0.4 g) for 30 minutes. The solution was concentrated and the residue was dissolved in water and washed with chloroform. The aqueous layer was acidified with hydrochloric acid and extracted with chloroform. The extract was washed with water, dried and evaporated. The residual oil was recrystallized from ethanol to give crystals of 4'-acetyl2'-chloro-6'-(2,4-difluorophenylthio)methanesulfonanilide (0.54 g).

reactant | 4'-amino-3'-chloro-5'-(2,4-difluorophenylthio)acetophenone | 1 g | NC1=C(C=C(C=C1SC1=C(C=C(C=C1)F)F)C(C)=O)Cl | C14H10ClF2NOS
reactant | methanesulfonic anhydride | 1.2 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4'-acetyl2'-chloro-6'-(2,4-difluorophenylthio)methanesulfonanilide | 0.54 g | C(C)(=O)C1=CC(=C(NS(=O)(=O)C)C(=C1)SC1=C(C=C(C=C1)F)F)Cl | C15H12ClF2NO3S2
